US07282588B2
N′-(4-{4-[2-(2-acetyl-1,2,3,4-tetrahydro-7-isoquinolinyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-ethyl-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea
Following the procedure described for Intermediate 32 with 2-acetyl-7-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1,2,3,4-tetrahydroisoquinoline. Using this product crude and following the procedure described in Intermediate 100 using N′-[4-(4-bromo-1-ethyl-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea and stirring for 4.5 hours provided the title compound. ESMS [M+H]+: 688.6.

reactant | 2-acetyl-7-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=CC(=CC=C2CC1)C1=CC=2C(=NC=CC2Br)N1S(=O)(=O)C1=CC=CC=C1 | C24H20BrN3O3S
reactant | N′-[4-(4-bromo-1-ethyl-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea | BrC=1C(=NN(C1)CC)C1=CC=C(C=C1)NC(N(C)C)=O | C14H17BrN4O
product | N′-(4-{4-[2-(2-acetyl-1,2,3,4-tetrahydro-7-isoquinolinyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-ethyl-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea | C(C)(=O)N1CC2=CC(=CC=C2CC1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)CC)C2=CC=C(C=C2)NC(N(C)C)=O)N1S(=O)(=O)C1=CC=CC=C1 | C38H37N7O4S
